US07737153B2
4-(4-Amino-2-chlorophenoxy)-2-fluorobenzonitrile
2.00 g (14.4 mmol) of 2,4-difluorobenzonitrile, 2.06 g (14.4 mmol) of 3-chloro-4-hydroxyaniline and 3.97 g (28.8 mmol) of potassium carbonate in 20 ml of acetonitrile are heated at RF for one hour. Ethyl acetate is added, the mixture is filtered and the solvent is removed under reduced pressure. The residue is purified by column chromatography (silica gel 60), giving the product which is a regioisomer mixture with a ratio of 62:38.

reactant | 2,4-difluorobenzonitrile | 14.4 mmol, 2.00 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | 3-chloro-4-hydroxyaniline | 14.4 mmol, 2.06 g | ClC=1C=C(N)C=CC1O | C6H6ClNO
reactant | potassium carbonate | 28.8 mmol, 3.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-(4-Amino-2-chlorophenoxy)-2-fluorobenzonitrile | NC1=CC(=C(OC2=CC(=C(C#N)C=C2)F)C=C1)Cl | C13H8ClFN2O
